US07863253B2
A mixture of (±)-3,4-dihydro-2H-pyran-2-methanol (514 g, 4.51 mol, 1 eq) and acetic anhydride (621 g, 6.09 mol, 1.35 eq) was cooled to 0° C. To the resultant mixture was added pyridine (35.6 g, 0.45 mol, 0.1 eq) and the resultant reaction mixture was allowed to warm to room temperature with stirring. The resultant reaction mixture was allowed to stir for an additional 8 hours after reaching room temperature and was shown to be complete by thin-layer chromatography (2:1 hexanes:ethyl acetate, 12 staining). The reaction mixture was concentrated in vacuo at 35° C. and the resultant residue was diluted using ethyl acetate (2 L). The resultant mixture was transferred to a separatory funnel and sequentially washed with deionized water (3×1 L), saturated aqueous NaHCO3 (2×10 L), and brine (1.0 L). The organic layer was dried over sodium sulfate and concentrated in vacuo at 35° C. to provide (±)-3,4-dihydro-2H-pyran-2-yl-methyl acetate as a clear liquid (605.9 g, 86% yield). 1H NMR (300 MHz, CDCl3) δ 1.6-2.2 (m, 4 H), 2.1 (s, 3 H), 4.2 (m, 3 H), 4.8 (m, 1 H), 6.4 (m, 1 H).

reactant | (±)-3,4-dihydro-2H-pyran-2-methanol | 4.51 mol, 514 g, 1 eq | O1C(CCC=C1)CO | C6H10O2
reactant | acetic anhydride | 6.09 mol, 621 g, 1.35 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.45 mol, 35.6 g, 0.1 eq | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-3,4-dihydro-2H-pyran-2-yl-methyl acetate | 605.9 g, 86% yield | C(C)(=O)OCC1OC=CCC1 | C8H12O3
